US08648089B2
3-bromo-6-(4-methoxyphenyl)-1H-indole
The target compound was prepared as in Preparation Example 6 using 6-(4-methoxyphenyl)-1H-indole (500 mg, 2.24 mmol) and bromine (115 μL, 2.24 mmol).

reactant | 6-(4-methoxyphenyl)-1H-indole | 2.24 mmol, 500 mg | COC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C15H13NO
reactant | bromine | 2.24 mmol, 115 μL | BrBr | Br2
product | 3-bromo-6-(4-methoxyphenyl)-1H-indole | BrC1=CNC2=CC(=CC=C12)C1=CC=C(C=C1)OC | C15H12BrNO
